US05166198
b) 9-Benzyloxyadenine
A solution of 9-benzyloxy-6-chloropurine (38.4 g; 0.147 mmol) in ethanol (300 ml) saturated with ammonia was heated at 100° C. in an autoclave for 16 hours. After cooling the suspension was evaporated to dryness and the residue partitioned between chloroform (750 ml) and water (500 ml). The separated aqueous phase was washed with chloroform (200 ml). The combined organic phases were washed with water, dried (MgSO4) and evaporated, affording an orange solid homogeneous on t.l.c. (31.1 g, 87%). IR: υmax (KBr) 3372, 3300, 3187, 3038, 1660, 1637, 1600, 1581 cm-1 ; 1H NMR: δH [(CD3)2SO] 5.3(2H, s, CH2Ar), 6.8(2H, br.s, D2O exchangeable, NH2), 7.3(6H, s, H-8, Ar), 7.7(1H, s, H-2). Found: C, 59.39; H, 4.60; N, 29.07%; m/e 241.0949. C12H11N5O requires: C, 59.73; H, 4.60; N, 29.03%; m/z 241.0964.

reactant | 9-benzyloxy-6-chloropurine | 0.147 mmol, 38.4 g | C(C1=CC=CC=C1)ON1C2=NC=NC(=C2N=C1)Cl | C12H9ClN4O
reactant | ammonia | N | H3N
reactant | KBr | [K+].[Br-]
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 9-Benzyloxyadenine | C(C1=CC=CC=C1)ON1C2=NC=NC(=C2N=C1)N | C12H11N5O
